US09371321B2
Preparation 24: 1-(6-Bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)propan-1-amine
Ethylmagnesium bromide (4.18 mL, 12.54 mmol) was added to a stirred solution of 6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile (740 mg, 3.13 mmol) in THF (16 mL) at room temperature. The mixture was stirred for one hour at room temperature and then quenched with methanol (5 mL). Sodium borohydride (237 mg, 6.27 mmol) was added. The reaction mixture was stirred for one hour, quenched with 1N HCl (1.5 mL) and stirred for 20 minutes. Next, the mixture was basified with saturated aqueous sodium bicarbonate and extracted with ethyl acetate (2×). The organic layer was dried over anhydrous magnesium sulfate and concentrated to give the title compound as a tan oil (680 mg, 81%). ESI-MS m/z [M+H]+ calc'd for C11H14BrN3, 268. found 268.

reactant | Ethylmagnesium bromide | 12.54 mmol, 4.18 mL | C(C)[Mg]Br
reactant | 6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile | 3.13 mmol, 740 mg | BrC=1C=C2C(=NC1C#N)C=CN2C | C9H6BrN3
reactant | Sodium borohydride | 6.27 mmol, 237 mg | [BH4-].[Na+]
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | 1-(6-Bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)propan-1-amine | 680 mg, 81% | BrC=1C=C2C(=NC1C(CC)N)C=CN2C | C11H14BrN3
